US05972978
2-Bromomethyinaphthalene (5.00 g, 23 mmol) was dissolved in N,N'-dimethylformamide (50 ml) and potassium cyanide (2.95 g, 45 mmol) was added and the resulting mixture was stirred at room temperature for 16 hours. The supematant was decanted and partitioned between water (100 ml) and diethyl ether (2×75 ml). The combined organic phases were washed with water (100 ml), dried (MgSO4), filtered and evaporated in vacuo affording 2.53 g (67%) of 2-naphtylacetonitrile as a solid.

reactant | 2-Bromomethyinaphthalene | 23 mmol, 5.00 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium cyanide | 45 mmol, 2.95 g | [C-]#N.[K+]
solvent | N,N'-dimethylformamide | 50 ml | CN(C)C=O | C3H7NO
product | 2-naphtylacetonitrile | 2.53 g, 67% | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
